US09290476B2
6-Iodo-3-(4-(trifluoromethyl)benzyl)quinoline-2,4-diol
To a suspension of 6-iodoquinoline-2,4-diol (498.2 g, 1.736 mol) and diethyl 2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate (439.6 g, 1.736 mol) in pyridine (3.5 L) was added 4-(trifluoromethyl)benzaldehyde (332.4 g, 1.909 mol). The resulting mixture was warmed with stirring to 105° C. for a period of 6 h. After cooling to room temperature, the heterogeneous mixture was treated with ethanol (4.6 L). White solids were isolated through filtration, washed with 57:43 ethanol:pyridine (800 mL), and dried in a vacuum oven at 65° C. The title compound was obtained in a 1:0.92 ratio with pyridine and used directly in the subsequent step.

reactant | 6-iodoquinoline-2,4-diol | 1.736 mol, 498.2 g | IC=1C=C2C(=CC(=NC2=CC1)O)O | C9H6INO2
reactant | diethyl 2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 1.736 mol, 439.6 g | CC=1NC(=C(CC1C(=O)OCC)C(=O)OCC)C | C13H19NO4
reactant | 4-(trifluoromethyl)benzaldehyde | 1.909 mol, 332.4 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | ethanol | 4.6 L | C(C)O | C2H6O
solvent | pyridine | 3.5 L | N1=CC=CC=C1 | C5H5N
product | 6-Iodo-3-(4-(trifluoromethyl)benzyl)quinoline-2,4-diol | IC=1C=C2C(=C(C(=NC2=CC1)O)CC1=CC=C(C=C1)C(F)(F)F)O | C17H11F3INO2
